US05998439
Combine furfuryl alcohol (1 mL, 11.6 mmol) and tetrahydrofuran (20 mL). Add portionwise sodium hydride (0.57 g, 60% in oil, 14 mmol). After gas evolution ceases, add ethyl bromoacetate (1.3 mL, 11.7 mmol). Heat to reflux. After 2.5 hours cool to ambient temperature. After 18 hours, partition the reaction mixture between ethyl acetate and water. Separate the aqueous layer and extract twice with ethyl acetate. Combine the organic layers and extract with saturated aqueous sodium chloride solution, dry over Na2SO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1% ethyl acetate/dichloromethane to give ethyl fur-2-ylmethoxyacetate: Rf =0.62 (silica gel, 5% ethyl acetate/dichloromethane).

reactant | furfuryl alcohol | 11.6 mmol, 1 mL | C(C1=CC=CO1)O | C5H6O2
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 14 mmol, 0.57 g | [H-].[Na+]
reactant | ethyl bromoacetate | 11.7 mmol, 1.3 mL | BrCC(=O)OCC | C4H7BrO2
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | ethyl fur-2-ylmethoxyacetate | O1C(=CC=C1)COCC(=O)OCC | C9H12O4
